US05693668
3-Trimethylsilylmethylbenzylalcohol
To a solution of 3-methylbenzylalcohol (6.10 g, 50 mmol) in anhydrous diglyme (200 ml) at -78° C. was added 1.5M butyllithium (100 ml) over 20 min. The resulting mixture was allowed to warm to -20° C. and stirred for 30 min. Then a mixture of trimethylchlorosilane (19.0 g, 175.0 mmol) and triethylamine (5.05 g, 50 mmol) was added and the final solution was stirred at room temperature for 3 hours. The reaction mixture was treated with ice water (200 ml), extracted three times with diethyl ether (100 ml) and the extracts washed twice with water, brine, dried over MgSO4 and concentrated. The crude product was dissolved in 90% aqueous methanol (200 ml) and refluxed for 1 hour. Then the solvents were removed and 3-trimethylsilylmethylbenzylalcohol was purified by fractional distillation.

reactant | 3-methylbenzylalcohol | 50 mmol, 6.10 g | CC=1C=C(CO)C=CC1 | C8H10O
reactant | butyllithium | 1.5M, 100 ml | C(CCC)[Li]
reactant | trimethylchlorosilane | 175.0 mmol, 19.0 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 50 mmol, 5.05 g | C(C)N(CC)CC | C6H15N
solvent | diglyme | 200 ml | COCCOCCOC | C6H14O3
product | 3-Trimethylsilylmethylbenzylalcohol | C[Si](C)(C)CC=1C=C(CO)C=CC1 | C11H18OSi
